US07485632B2
A mixture of 1.19 g of (trans-4-thioureido-cyclohexyl)-carbamic acid tert-butyl ester and 0.41 ml of methyliodide in 50 ml of MeOH is stirred at RT. From the mixture obtained solvent is evaporated and [trans-4-(2-methyl-isothioureido)-cyclohexyl]-carbamic acid tert-butyl ester in the form of a hydrolodide is obtained.

reactant | (trans-4-thioureido-cyclohexyl)-carbamic acid tert-butyl ester | 1.19 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)NC(=S)N)=O | C12H23N3O2S
reactant | methyliodide | 0.41 ml | CI | CH3I
solvent | MeOH | 50 ml | CO | CH4O
product | [trans-4-(2-methyl-isothioureido)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)NC(SC)=N)=O | C13H25N3O2S
